US07842688B2
a) tert-Butyl 3-[7-(2-acetylaminoethyl)benzofuran-2-ylmethoxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
Analogously to Method D, 1.18 g of tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 0.64 g of N-[2-(2-chloromethylbenzofuran-7-yl)ethyl]acetamide are reacted. The title compound is obtained as a yellow oil. Rf=0.12 (3:1 EtOAc-heptane); Rt=5.65.

reactant | tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 1.18 g | OC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C27H37NO6
reactant | N-[2-(2-chloromethylbenzofuran-7-yl)ethyl]acetamide | 0.64 g | ClCC=1OC2=C(C1)C=CC=C2CCNC(C)=O | C13H14ClNO2
product | tert-Butyl 3-[7-(2-acetylaminoethyl)benzofuran-2-ylmethoxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | C(C)(=O)NCCC1=CC=CC=2C=C(OC21)COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C | C40H50N2O8
